US03931407
1-(3-Carboxy-5-chloro-4-hydroxyphenyl)-2-phenyl-4,5,6,7-tetrahydroindole ##SPC79##
a mixture of 10.3 g. (0.047 mole) of 2-phenacylcyclohexanone, 8.8 g. (0.047 mole) of 5-amino-3-chlorosalicylic acid, and 45 ml. of glacial acetic acid was heated under reflux for 1 hour, cooled and filtered. The collected solid was recrystallized from acetonitrile to provide 13.3 g. (77%) of crystals, m.p. 223°-225°.

reactant | 2-phenacylcyclohexanone | 0.047 mole | C(C(=O)C1=CC=CC=C1)C1C(CCCC1)=O | C14H16O2
reactant | 5-amino-3-chlorosalicylic acid | 0.047 mole | NC1=CC(=C(C(C(=O)O)=C1)O)Cl | C7H6ClNO3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-(3-Carboxy-5-chloro-4-hydroxyphenyl)-2-phenyl-4,5,6,7-tetrahydroindole | C(=O)(O)C=1C=C(C=C(C1O)Cl)N1C(=CC=2CCCCC12)C1=CC=CC=C1 | C21H18ClNO3
